US07662974B2
Preparation of ethyl (4E)-3-hydroxy-3-pentylhex-4-enoate
Under nitrogen atmosphere, 15 mL of THF was added to 3.05 g (5 mmol, 1.0 equivalent) of (BrZnCH2COOEt.THF)2. Under argon atmosphere, a solution of 0.70 g (5 mmol) of trans-3-nonen-2-one in 2.5 mL of THF was added dropwise while stirring at 0˜5° C. The mixture was stirred at 20˜25° C. for 3 hours. 8.5 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 25 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 5 mL (×2) of 1N hydrochloric acid, 5 mL of water, 10 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 5 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. Concentration under reduced pressure afforded 1.13 g of the desired product (yield 99%).

reactant | BrZnCH2COOEt | Br[Zn]CC(=O)OCC
reactant | trans-3-nonen-2-one | 5 mmol, 0.70 g | CC(\C=C\CCCCC)=O | C9H16O
reactant | hydrochloric acid | 1N, 8.5 mL | Cl | ClH
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | ethyl (4E)-3-hydroxy-3-pentylhex-4-enoate | 1.13 g, yield 99% | OC(CC(=O)OCC)(\C=C\C)CCCCC | C13H24O3
